US07598423B2
Synthesis of 3-(3-hydroxyisoxazol-5-yl)phenylboronic acid
Add a 2.5 M solution of n-butyllithium in hexane (0.60 mL, 1.10 mmol) to a solution of 5-(3-bromophenyl)isoxazol-3-ol (120 mg, 0.50 mmol) and triisopropyl borate (113 mg, 0.60 mmol) in a mixture of toluene (2.5 mL) and THF (2.5 mL) at −78° C. After 1.5 h, warm the mixture to −20° C. and add a 2.0 N aqueous HCl solution (1 mL). Extract the mixture with EtOAc after warm to room temperature. Dry, filter and concentrate the organic layer to a white solid.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 1.10 mmol, 0.60 mL | CCCCCC | C6H14
reactant | 5-(3-bromophenyl)isoxazol-3-ol | 0.50 mmol, 120 mg | BrC=1C=C(C=CC1)C1=CC(=NO1)O | C9H6BrNO2
reactant | triisopropyl borate | 0.60 mmol, 113 mg | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 2.0 N, 1 mL | Cl | ClH
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 3-(3-hydroxyisoxazol-5-yl)phenylboronic acid | OC1=NOC(=C1)C=1C=C(C=CC1)B(O)O | C9H8BNO4
